US05270310
N,N-Dimethyl-N'-ethyl-N'-hexadecanoyl-1,3-propanediamine hydrochloride (7, hydrochloride salt)
Hydrogen chloride gas was bubbled into a solution of N,N-dimethyl-N'-ethyl-N'-hexadecanoyl-1,3-propanediamine (0.64 g, 1.7 mmole) in methanol (20 mL). The solvent was removed under reduced pressure and the residue titurated with diethyl ether to yield the title compound (0.67 g, 96%) as a white solid. mp 81°-83 ° C. 1H NMR (300 MHz, CD3OD): δ0.691 (3H, t, J=6.7 Hz), 1.012 (3H, t, J=7.1 Hz), 1.081 (24H, bs), 1.75 to 1.82 (2H, m), 2.207 (2H, t, J=7.1 Hz), 2.679 (6H, s), 2.879 (2H, t, J=7.1 Hz), and 3.19 to 3.25 (4H, m). IR (KBr): 2957, 1913, 1653, and 1251 cm-1. Analysis calculated for C23H49CIN2O.1/4H2O: C, 67.41; H, 12.18; N, 6.84; Cl, 8.66. Found: C, 67.46; H, 12.14; N, 6.85; Cl, 8.71.

reactant | Hydrogen chloride | Cl | ClH
reactant | N,N-dimethyl-N'-ethyl-N'-hexadecanoyl-1,3-propanediamine | 1.7 mmole, 0.64 g | CN(CCCN(C(CCCCCCCCCCCCCCC)=O)CC)C | C23H48N2O
solvent | methanol | 20 mL | CO | CH4O
product | N,N-Dimethyl-N'-ethyl-N'-hexadecanoyl-1,3-propanediamine hydrochloride | 0.67 g, 96% | Cl.CN(CCCN(C(CCCCCCCCCCCCCCC)=O)CC)C | InChI=1S/C23H48N2O.ClH/c1-5-7-8-9-10-11-12-13-14-15-16-17-18-20-23(26)25(6-2)22-19-21-24(3)4;/h5-22H2,1-4H3;1H
